US07388015B2
A mixture of thiourea (5.18 g, 0.068 mol) in dry MeOH (20 ML) was stirred and cooled on an ice bath. Pyridine (2 mL) was added, followed by 3-chloro-2,4-pentadione (9.15 g, 0.068 mol) dropwise. After completion of the addition the reaction mixture was allowed to warm to r. t. and stirring was continued for 4 h. The precipitates were filtered and washed with EtOAc to afford white solid 1-(2-amino-4-methyl-thiazol-5-yl)-ethanone.

reactant | thiourea | 0.068 mol, 5.18 g | NC(=S)N | CH4N2S
reactant | Pyridine | 2 mL | N1=CC=CC=C1 | C5H5N
reactant | MeOH | CO | CH4O
product | 1-(2-amino-4-methyl-thiazol-5-yl)-ethanone | NC=1SC(=C(N1)C)C(C)=O | C6H8N2OS
